US05210092
To a solution of 2-tert-butyldiphenylsilyloxymethyl-1-(4-ethoxycarbonylphenyl)pyrrole-2-carbonitrile (1.9 g) in tetrahydrofuran (19 ml) was added tetrabutylammonium fluoride (5.6 ml, 1M tetrahydrofuran solution) through syringe at ambient temperature. The mixture was stirred for half an hour at the same temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate and the solution was washed with aqueous hydrochloric acid, water and brine, and then dried, and concentrated in vacuo. The oily residue was chromatographed on silica gel (elution by ethyl acetate/n-hexane=1/1) to give 1-(4-ethoxycarbonylphenyl)-5-hydroxymethylpyrrole-2-carbonitrile (702.5 mg) as an oil.

reactant | 2-tert-butyldiphenylsilyloxymethyl-1-(4-ethoxycarbonylphenyl)pyrrole-2-carbonitrile | 1.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1(N(C=CC1)C1=CC=C(C=C1)C(=O)OCC)C#N | C31H34N2O3Si
reactant | tetrabutylammonium fluoride | 1M, 5.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | 1-(4-ethoxycarbonylphenyl)-5-hydroxymethylpyrrole-2-carbonitrile | 702.5 mg | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC=C1CO)C#N | C15H14N2O3
